US07459475B2
Step F. 5-[2′-(Phenyl)biphenyl-3-yl]2H-1,2,4-triazole-3-carboxamide
A mixture of 0.035 g of 2-Trimethylsilylethoxymethyl-5-[2′-(Phenyl)biphenyl-3-yl]-1,2,4-triazole-3-carboxamide in 3 mL of acetonitrile and 9 mL of a 50% solution of HF in water was stirred at rt for 6 hours. The reaction mixture was then concentrated and the residue was purified by chromatography (silica, CH3OH: CH2Cl2 0-5% gradient) to give the title compound.

reactant | 2-Trimethylsilylethoxymethyl-5-[2′-(Phenyl)biphenyl-3-yl]-1,2,4-triazole-3-carboxamide | 0.035 g | C[Si](CCOCNC(=O)C1=NNC(=N1)C=1C=C(C=CC1)C1=C(C=CC=C1)C1=CC=CC=C1)(C)C | C27H30N4O2Si
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5-[2′-(Phenyl)biphenyl-3-yl]2H-1,2,4-triazole-3-carboxamide | C1(=CC=CC=C1)C1=C(C=CC=C1)C1=CC(=CC=C1)C=1N=C(NN1)C(=O)N | C21H16N4O
